US09428528B2
Step 1 Preparation of N-((5-(4-((1R,2S)-2-amino-3-fluoro-1-hydroxypropyl) phenyl) pyridin-2-yl) methyl)methanesulfonamide
(4S,5R)-tert-butyl4-(fluoromethyl)-2,2-dimethyl-5-(4-(6-(methylsulfonamidomethyl)pyridin-3-yl)phenyl)oxazolidine-3-carboxylate (1800 mg, 3.64 mmol) is dissolved in dichloromethane (20 mL), and treated with trifluoroacetic acid (5.4 mL), for 4 h at room temperature. The reaction mixture is diluted with toluene (30 mL) and concentrated to a syrup. Obtained crude compound is basified with aqueous sodium bicarbonate, extracted with ethyl acetate. Extracts are dried over Na2SO4, filtered, and concentrated to give the title compound (1110 mg): m/z (CI) M+H 354.

reactant | (4S,5R)-tert-butyl4-(fluoromethyl)-2,2-dimethyl-5-(4-(6-(methylsulfonamidomethyl)pyridin-3-yl)phenyl)oxazolidine-3-carboxylate | 3.64 mmol, 1800 mg | C(C)(C)(C)OC(=O)N1C(O[C@@H]([C@H]1CF)C1=CC=C(C=C1)C=1C=NC(=CC1)CNS(=O)(=O)C)(C)C | C24H32FN3O5S
reactant | trifluoroacetic acid | 5.4 mL | FC(C(=O)O)(F)F | C2HF3O2
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | dichloromethane | 20 mL | ClCCl | CH2Cl2
solvent | toluene | 30 mL | C1(=CC=CC=C1)C | C7H8
product | N-((5-(4-((1R,2S)-2-amino-3-fluoro-1-hydroxypropyl) phenyl) pyridin-2-yl) methyl)methanesulfonamide | 1110 mg | N[C@@H]([C@H](O)C1=CC=C(C=C1)C=1C=CC(=NC1)CNS(=O)(=O)C)CF | C16H20FN3O3S
